US08378104B2
Step B: 2-chloro-3-methylfuro[2,3-c]pyridin-7-amine
Di-tert-butyl (2-chloro-3-methylfuro[2,3-c]pyridin-7-yl)imidodicarbonate (3.2 g, 8.38 mmol) DCM (25 mL) was cooled in an ice bath and treated with 4 N HCl in 1,4-dioxane (12.5 mL, 50 mmol) added slowly over several minutes. The reaction was removed from the cooling bath and heated at 55° C. for 16 h. The mixture was concentrated in vacuo and the residue was suspended in DCM and treated with saturated NaHCO3 until the pH reached ˜8.5. The organic layer was washed with water, then brine and then dried over anhydrous Na2SO4. After concentration in vacuo, the material was purified by flash chromatography (3% MeOH:DCM) to provide 1.0 g (66%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.87 (d, J=5.4 Hz, 1H), 6.79 (d, J=5.4 Hz, 1H), 4.78 (br s, 2H), 2.16 (s, 3H).

reactant | Di-tert-butyl (2-chloro-3-methylfuro[2,3-c]pyridin-7-yl)imidodicarbonate | 8.38 mmol, 25 mL, 3.2 g | ClC1=C(C=2C(=C(N=CC2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O1)C | C18H23ClN2O5
reactant | HCl | 4 N | Cl | ClH
reactant | 1,4-dioxane | 50 mmol, 12.5 mL | O1CCOCC1 | C4H8O2
product | 2-chloro-3-methylfuro[2,3-c]pyridin-7-amine | 1.0 g, 66% | ClC1=C(C=2C(=C(N=CC2)N)O1)C | C8H7ClN2O
